US04255429
The starting material is prepared as follows: The mixture of 22.4 g of 3-(p-chlorophenyl)-glutaric anhydride, 10.3 g of 4-aminopyridine, 350 ml of xylene and 1.5 g of methane sulfonic acid is refluxed on a water separator while stirring for 4 days. After the first day an additional 0.5 g of methane sulfonic acid is added and the hot solution is finally decanted from some gummy material. The crystals formed on cooling are filtered off, triturated with hot ethanol, cooled, filtered off again and dried to yield the 4-(p-chlorophenyl)-1-(4-pyridyl)-piperidin-2,6-dione melting at 204°-206°.

reactant | 3-(p-chlorophenyl)-glutaric anhydride | 22.4 g | ClC1=CC=C(C=C1)C1CC(=O)OC(C1)=O | C11H9ClO3
reactant | 4-aminopyridine | 10.3 g | NC1=CC=NC=C1 | C5H6N2
reactant | xylene | 350 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | methane sulfonic acid | 1.5 g | CS(=O)(=O)O | CH4O3S
reactant | methane sulfonic acid | 0.5 g | CS(=O)(=O)O | CH4O3S
solvent | water | O | H2O
product | 4-(p-chlorophenyl)-1-(4-pyridyl)-piperidin-2,6-dione | ClC1=CC=C(C=C1)C1CC(N(C(C1)=O)C1=CC=NC=C1)=O | C16H13ClN2O2
